data/mechanisms/records/IMS8-EQ8.14b.json
{"mechanism_id": "IMS8-EQ8.14b", "species": [{"species_id": "ethyl_methyleneoxocarbenium", "mapped_smiles": "[CH3:1][CH2:5][O+:8]=[CH2:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[O:8]=[CH2:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethyl_methyleneoxocarbenium"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "formaldehyde_neutral"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [5, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "contradicted", "locator": {"page": 148, "equation": "8.14", "section": "8.x Proton-bound complexes / hydrogen rearrangement (rH) in even-electron ions"}, "confidence": 0.8, "curator_note": "EXPERIMENTAL CONTEXT: this C2H5+ + O=CH2 channel is CROSSED OUT on eq 8.14 (X through the lower arrow from the proton-bound complex): the MI spectrum of C2H5O+=CH2 shows NO C2H5+. Encoded with support_type=contradicted and peak status=rejected. adduct is not [M]+.: the precursor is the even-electron m/z 59 fragment ion. 0 electron-pushing arcs drawn. Equation 8.14, REJECTED (lower) branch: the reaction arrow leading to C2H5+ + O=CH2 is drawn CROSSED OUT (a large X over the arrow). McLafferty rejects this direct inductive (i) C-O cleavage of C2H5-O+=CH2 to the ethyl cation C2H5+ (m/z 29) plus neutral formaldehyde; the text confirms the MI spectrum of C2H5O=CH2+ 'shows no C2H5+'. Encoded here only to record the disfavored path (support_type contradicted, peak status rejected). Book draws 0 electron-pushing arcs; the single encoded move is reconstructed for electron balance (not drawn on the page): move <1> takes the C5-O8 bonding pair fully onto O8, neutralising the oxocarbenium O+ to a formaldehyde carbonyl oxygen and expelling C5 as the ethyl cation (charge migration to carbon). Closed-shell, even-electron heterolysis."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "metastable-ion (MI) decomposition (channel not observed)", "electron_energy_ev": null, "precursor_mz": 59.0486, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C2H5", "species_id": "ethyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 29.038, "status": "rejected", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
